US06407096B1
8-acetoxy-4-(2-(diphenylmethoxy)ethyl)-3,4-dihydro-2H-1,4-benzoxazine
8-acetoxy-4-(2-(diphenylmethoxy)ethyl)-3-oxo-3,4-dihydro-2H-1,4-benzooxazine (630 mg) was dissolved in THF (10 ml), and a 1.0M borane THF solution (4.5 ml) was added to the resultant solution at 0° C., followed by stirring at room temperature for 4 hours. After water was added to the reaction solution to terminate reaction, the reaction solution was extracted with ethyl acetate. The resultant organic layer was washed with water, saturated sodium bicarbonate water, water and saturated brine, dried over sodium sulfate, and then concentrated. The residue was purified by medium-pressure column chromatography (solvent:ethyl acetate/cyclohexane=1/5) to obtain the colorless oily object compound (550 mg, yield 90%).

reactant | 8-acetoxy-4-(2-(diphenylmethoxy)ethyl)-3-oxo-3,4-dihydro-2H-1,4-benzooxazine | 630 mg | C(C)(=O)OC1=CC=CC=2N(C(COC21)=O)CCOC(C2=CC=CC=C2)C2=CC=CC=C2 | C25H23NO5
reactant | borane THF | 1.0M, 4.5 ml | B.C1CCOC1
reactant | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 8-acetoxy-4-(2-(diphenylmethoxy)ethyl)-3,4-dihydro-2H-1,4-benzoxazine | 550 mg, yield 90% | C(C)(=O)OC1=CC=CC=2N(CCOC21)CCOC(C2=CC=CC=C2)C2=CC=CC=C2 | C25H25NO4
